US04233464
1-[3-Methyl-3,5,5-trimethoxy-pent-1-yn-1-yl]-2,6,6-trimethylcyclohex-1-ene
88.5 g (0.47 mole) of 1-[3-methyl-but-3-en-1-yn-1-yl]-2,6,6-trimethyl-cyclohex-1-ene were added in the course of 60 minutes, at 0° C., to a mixture of 148 g (1 mole) of triethyl orthoformate and 5 g (0.032 mole) of FeCl3 and the reaction mixture was then stirred for 16 hours at 20° C. Thereafter it was rendered alkaline with 70 ml of saturated sodium carbonate solution, the aqueous phase was separated off and the organic phase was dried. The NMR spectrum shows the presence of a mixture of starting material and product.

reactant | 1-[3-methyl-but-3-en-1-yn-1-yl]-2,6,6-trimethyl-cyclohex-1-ene | 0.47 mole, 88.5 g | CC(C#CC1=C(CCCC1(C)C)C)=C | C14H20
reactant | triethyl orthoformate | 1 mole, 148 g | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium carbonate | 70 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 1-[3-Methyl-3,5,5-trimethoxy-pent-1-yn-1-yl]-2,6,6-trimethylcyclohex-1-ene | CC(C#CC1=C(CCCC1(C)C)C)(CC(OC)OC)OC | C18H30O3
